US07300939B2
To a suspension of 35.5 g of KOH in ethanol (250 ml) there were added 51.0 g (158.9 mmol) of 2,3-dibromo-3-tol-2-ylpropionic acid portionwise over a period of 30 min. The mixture was then heated under reflux over a period of 4 h. Following removal of the solvent in vacuo, the residue was taken up in 10% strength hydrochloric acid. The solution was washed with EA and then set to pH>10 with a 6N aq. NaOH solution. The mixture was then extracted with EA and the organic phase was dried over MgSO4. Following filtration and the removal of solvent in vacuo, there were obtained 13.8 g (86.2 mmol, 54%) of tol-2-ylpropiolic acid.

reactant | KOH | 35.5 g | [OH-].[K+]
reactant | 2,3-dibromo-3-tol-2-ylpropionic acid | 158.9 mmol, 51.0 g | BrC(C(=O)O)C(C1=C(C=CC=C1)C)Br | C10H10Br2O2
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | tol-2-ylpropiolic acid | 86.2 mmol, 13.8 g, 54% | C1(=C(C=CC=C1)C#CC(=O)O)C | C10H8O2
